US08648066B2
4-Quinolin-4-yl-7-(3-thienyl)-2,3,4,5-tetrahydro-1,4-benzoxazepine.
Prepared as the trifluoroacetate salt according to the method of example 3 by using thiophen-3-ylboronic acid in step 1 and 4-chloroquinoline in step 3. 1H NMR (400 MHz, d6-DMSO): 8.56 (d, 1H), 8.32 (d, 1H), 8.01-7.91 (m, 3H), 7.85 (s, 1H), 7.71-7.65 (m, 2H), 7.63-7.58 (m, 2H), 6.97-6.91 (m, 2H), 5.25 (s, 2H), 4.60 (t, 2H), 4.40 (t, 2H); MS (EI) for C22H18N2OS: 359 (MH+).

reactant | trifluoroacetate | FC(C(=O)[O-])(F)F
reactant | thiophen-3-ylboronic acid | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | 4-chloroquinoline | ClC1=CC=NC2=CC=CC=C12 | C9H6ClN
product | 4-Quinolin-4-yl-7-(3-thienyl)-2,3,4,5-tetrahydro-1,4-benzoxazepine | N1=CC=C(C2=CC=CC=C12)N1CCOC2=C(C1)C=C(C=C2)C2=CSC=C2 | C22H18N2OS
